US04558155
N-[2-(3,5-Dichlorophenoxy)ethyl]-N'-[2-(dimethylamino)ethyl]-N-(1-methylethyl)urea Hydrate [2:1]
A solution of N-[2-(3,5-dichlorophenoxy)ethyl]-N'-[2-(dimethylamino)ethyl]-N-(1-methylethyl)urea Maleate [1:1], from Example 3A, was basified with 2M sodium hydroxide solution and extracted with methylene chloride. The methylene chloride layer was dried over magnesium sulfate and evaporated under vacuum to give an oil. Nuclear magnetic resonance measurements showed the product had 1/2 equivalent of water present.

reactant | N-[2-(3,5-dichlorophenoxy)ethyl]-N'-[2-(dimethylamino)ethyl]-N-(1-methylethyl)urea Maleate | C(\C=C/C(=O)O)(=O)O.ClC=1C=C(OCCN(C(=O)NCCN(C)C)C(C)C)C=C(C1)Cl
reactant | sodium hydroxide | 2M | [OH-].[Na+]
reactant | water | 1/2 equivalent | O | H2O
product | N-[2-(3,5-Dichlorophenoxy)ethyl]-N'-[2-(dimethylamino)ethyl]-N-(1-methylethyl)urea Hydrate | O.ClC=1C=C(OCCN(C(=O)NCCN(C)C)C(C)C)C=C(C1)Cl | InChI=1S/C16H25Cl2N3O2.H2O/c1-12(2)21(16(22)19-5-6-20(3)4)7-8-23-15-10-13(17)9-14(18)11-15;/h9-12H,5-8H2,1-4H3,(H,19,22);1H2
